US04210753
0.7 g of 8-hydroxy-5-(3-t-butylamino-2-hydroxypropoxy)-3,4-dihydrocarbostyril was suspended in 20 ml of acetone, and 3.0 ml of 1 N NaOH was added to the suspension to form a homogeneous solution. 0.2 g of acetyl chloride dissolved in a small amount of acetone was added dropwise to the solution under ice-cooling and stirring. After the mixture was allowed to stand under ice-cooling for 30 minutes, 2 ml of 1 N hydrochloric acid was added to the mixture, and the solvent evaporated under reduced pressure. The residue was purified by silica gel column chromatography using chloroform:methanol (8:1 by volume) as an eluent. The solvent was evaporated, and the residue was recrystallized from methanol-diethyl ether to obtain 0.4 g of 8-acetoxy-5-(3-t-butylamino-2-hydroxypropoxy)-3,4-dihydrocarbostyril hydrochloride as colorless flake-like crystals having a melting point of 247°-248° C. (with decomposition).

reactant | 8-hydroxy-5-(3-t-butylamino-2-hydroxypropoxy)-3,4-dihydrocarbostyril | 0.7 g | OC=1C=CC(=C2CCC(NC12)=O)OCC(CNC(C)(C)C)O | C16H24N2O4
reactant | NaOH | 1 N, 3.0 ml | [OH-].[Na+]
reactant | acetyl chloride | 0.2 g | C(C)(=O)Cl | C2H3ClO
reactant | hydrochloric acid | 1 N, 2 ml | Cl | ClH
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 8-acetoxy-5-(3-t-butylamino-2-hydroxypropoxy)-3,4-dihydrocarbostyril hydrochloride | 0.4 g | Cl.C(C)(=O)OC=1C=CC(=C2CCC(NC12)=O)OCC(CNC(C)(C)C)O | InChI=1S/C18H26N2O5.ClH/c1-11(21)25-15-7-6-14(13-5-8-16(23)20-17(13)15)24-10-12(22)9-19-18(2,3)4;/h6-7,12,19,22H,5,8-10H2,1-4H3,(H,20,23);1H
